Name:  ___.                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This patient is a ___ year old female who presented to ___ 
___ with intermittent nausea and vomiting for the past 
week. A CT of the abdomen revealed a small bowel obstruction. 
She also had an incidental right hydroureter with hydronephrosis 
and a UTI.  She was transferred to ___ for possible surgery. 
She had a nasogastric tube placed prior to transfer

 
Past Medical History:
PMH
1. CAD
2. Hypertension
3. Hypercholesterolemia
4. Hyperthyroid
PSH
1. S/P Colon resection for Ca
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Temp:98.2 HR:60 BP:139/60 Resp:16 O(2)Sat:98 normal 
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, mild distended
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluent
Psych: Normal mood
___: No petechiae

 
Pertinent Results:
___ 11:39PM   WBC-7.7 RBC-3.70* HGB-11.8* HCT-35.3* MCV-96 
MCH-31.8 MCHC-33.3 RDW-15.5
___ 11:39PM   NEUTS-66.0 ___ MONOS-5.3 EOS-0.4 
BASOS-0.6
___ 11:39PM   PLT COUNT-188
___ 11:39PM   GLUCOSE-102* UREA N-20 CREAT-0.7 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-26 ANION GAP-14
 
Brief Hospital Course:
Mrs. ___ was evaluated in the Emergency Room by the ACS service 
and admitted to the hospital for management of a small bowel 
obstruction.  She remained NPO, hydrated with IV fluids and had 
a nasogastric tube in place for decompression.  Her symptoms 
resolved overnight and she was generally feeling better.

Her nasogastric tube was removed after 24 hours and she 
eventually tolerated liquids without difficulty.  Her diet was 
advanced to regular and she tolerated it well without nausea or 
vomiting.  She was treated for a UTI with 3 days of Cipro based 
on a urine culture from ___.  Her urine culture here 
grew 10K-100K GNR's.  She had no dysuria or hematuria and was 
voiding in sufficient amounts. 

Her blood pressure was elevated at 180/90 on a routine check 
after ranging 140-160/80.  After checking with her PCP and 
realizing she was not on her usual Diltiazem
that was resumed and her blood pressure was more controlled.

She was also seen by the Urology service to evaluate findings 
noted on her CT from ___ including a right 
hydroureter.  They felt the findings were benign and probably 
congenital in nature. 

After an uncomplicated stay she was discharged to home on 
___ and will follow up with her PCP next week.
 
Medications on Admission:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. methimazole 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. multivitamin Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Vitamin D-3 1,000 unit Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO twice a day.  
5. metoprolol tartrate 100 mg Tablet Sig: One (1) Tablet PO 
twice a day.  
6. diltiazem HCl 240 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
7. lovastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week 

 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. methimazole 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Vitamin D-3 1,000 unit Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO twice a day.  
5. metoprolol tartrate 100 mg Tablet Sig: One (1) Tablet PO 
twice a day.  
6. diltiazem HCl 240 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
7. lovastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
* You were admitted to the hospital with a small bowel 
obstruction.
* You improved with gastric decompression and bowel rest.
* You are tolerating a regular diet without difficulty.
* Stay hydrated and continue a regular diet.
* The finding on CT scan regarding your ureter is nothing to 
worry about and something that you were born with.
* If your symptoms return please return to the Emergency Room.
 
Followup Instructions:
___